cfbVamp
* file: cfbVamp.cir
* SLiCAP circuit file
V1 1 0 V value = {V_s}
R1 1 2 R value = {R_s}
R2 4 0 R value = {R_ell}
R3 4 5 R value = {R_a}
R4 5 0 R value = {R_b}
G1 3 5 2 5 G value = {g_m}

V_sense 0 3 V value = 0
H1 4 0 V_sense H value={A_r}

.source V1
.detector V_4
.end