myCircuit
Vin 1 0 V value={V_s}
R1 1 2 R value={R_s}
O1 2 4 3 0 mycfb
R2 3 0 R value={R_ell}
R3 3 4 R value={R_a}
R4 4 0 R value={R_b}

.model mycfb OC
+ cp={C_i}
+ gp={1/R_i}
+ cpn={C_d}
+ gpn={1/R_d}
+ gm={g_m}
+ zt={R_t/(1+s*tau)}
+ zo={R_o/(1+s*tau)}

.param C_i=5p R_i=1M g_m=20m R_t=1M R_o=2k tau=50u R_a=2k R_b=500 R_s=100 R_ell=500 V_s=1 C_d=2p R_d=10k

.source Vin
.detector V_3
.end

