"RC Coupled Common Emitter Amplifier (Small Signal Model)"

V1 in 0 {Vi}
Rs in 1 {Rs}

*Cin 1 b {Cin}

RB b 0 {RB}

rpi b e {rpi}


G_qm c e b e {gm}

ro c e {ro}


Re e 0 {Re}
Ce e 0 {Ce}


Rc c 0 {Rc}


Cout c out {Cout}

RL out 0 {RL}

.source V1
.detector V_out

.end